US08039472B2
3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [8-[1-(2-hydroxy-ethyl)-1H-indole-4-carbonyl]-1,3,8-triaza-spiro[4.5]dec-(2E)-ylidene]-amide
p-Toluenesulfonic acid monohydrate (1.6 mg, 0.0084 mmol) is added to a stirred solution of 3,5-diamino-6-chloro-pyrazine-2-carboxylic acid [8-{1-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-1H-indole-4-carbonyl}-1,3,8-triaza-spiro[4.5]dec-(2E)-ylidene]-amide (Ex. 84) (50 mg, 0.084 mmol) in MeOH (3 ml) and the resulting solution is stirred at room temperature for 3 hrs, then heated at 50° C. for 16 hours. The solvent is removed in vacuo and the residue is dissolved in MeOH (3 ml) and loaded onto a 1 g PEAX cartridge which is eluted with MeOH (20 ml). The filtrate is concentrated in vacuo to afford the title compound; [M+H]+ 512/514

reactant | p-Toluenesulfonic acid monohydrate | 0.0084 mmol, 1.6 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 3,5-diamino-6-chloro-pyrazine-2-carboxylic acid [8-{1-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-1H-indole-4-carbonyl}-1,3,8-triaza-spiro[4.5]dec-(2E)-ylidene]-amide | 0.084 mmol, 50 mg | O1C(CCCC1)OCCN1C=CC=2C(=CC=CC12)C(=O)N1CCC2(CN/C(/N2)=N\C(=O)C2=NC(=C(N=C2N)N)Cl)CC1 | C28H34ClN9O4
solvent | MeOH | 3 ml | CO | CH4O
product | 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [8-[1-(2-hydroxy-ethyl)-1H-indole-4-carbonyl]-1,3,8-triaza-spiro[4.5]dec-(2E)-ylidene]-amide | OCCN1C=CC=2C(=CC=CC12)C(=O)N1CCC2(CN/C(/N2)=N\C(=O)C2=NC(=C(N=C2N)N)Cl)CC1 | C23H26ClN9O3
